US07790749B2
A solution of 5 g of (3R,3aS,6R,6aR)-hexahydro-furo[3,2-b]furan-3,6-diol in 50 ml of pyridine is stirred for 16 h with 7.8 g of toluenesulfonylchloride. From the mixture obtained solvent is distilled off and the distillation residue obtained is dissolved in EtAc and extracted with 1N HCl, saturated aqueous NaHCO3-solution and H2O. The organic layer obtained is dried, solvent is evaporated and the evaporation residue is subjected to chromatography. Toluene-4-sulfonic acid (3R,3aS,6R,6aR)-6-hydroxy-hexahydro-furo[3,2-b]furan-3-yl ester is obtained. 1HNMR(DMSO-d6): 7.8 (d,2H,Ar—H,J=8.6 Hz), 7.5 (d,2H,Ar—H,J=8.6 Hz), 4.8-4.9 (m,2H,H-3, 6-OH), 4.4 (dd,1H,H-3a,J=4.7 and 5.0 Hz), 4.2 (dd,1H,H-6a,J=4.7 and 4.8 Hz), 3.9-4.0 (m,1H,H-6), 3.7-3.8 (m,2H,H-2 and H-5), 3.6 (d,1H,H-2,J=9.3 and 7.1 Hz),3.2-3.4(m,1H,H-5), 2.4 (s, 3H, Ar—CH3).

reactant | (3R,3aS,6R,6aR)-hexahydro-furo[3,2-b]furan-3,6-diol | 5 g | O1[C@H]2[C@H]([C@@H](C1)O)OC[C@H]2O | C6H10O4
reactant | toluenesulfonylchloride | 7.8 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | Toluene-4-sulfonic acid (3R,3aS,6R,6aR)-6-hydroxy-hexahydro-furo[3,2-b]furan-3-yl ester | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OS(=O)(=O)C2=CC=C(C=C2)C | C13H16O6S
